US07217723B2
7-Oxo-4,5,6,7-tetrahydro-benzo[b]thiophene-3-sulfonic acid [2-hydroxy-2-(4-pyrrolidine-1-yl-phenyl)-ethyl]-methyl-amide
From 2-methylamino-1-(4-pyrrolidine-1-yl-phenyl)-ethanol (the compound of Preparation Example 19) (63 mg) and 7-oxo-4,5,6,7-tetrahydro-benzo[b]thiophene-3-sulfonyl chloride (the compound of Preparation Example 7) (70 mg), the title compound (35 mg) was obtained as a colorless amorphous substance, in the same way as Preparation Example 41.

reactant | 2-methylamino-1-(4-pyrrolidine-1-yl-phenyl)-ethanol | CNCC(O)C1=CC=C(C=C1)N1CCCC1 | C13H20N2O
reactant | 7-oxo-4,5,6,7-tetrahydro-benzo[b]thiophene-3-sulfonyl chloride | O=C1CCCC2=C1SC=C2S(=O)(=O)Cl | C8H7ClO3S2
product | 7-Oxo-4,5,6,7-tetrahydro-benzo[b]thiophene-3-sulfonic acid [2-hydroxy-2-(4-pyrrolidine-1-yl-phenyl)-ethyl]-methyl-amide | 35 mg | OC(CN(S(=O)(=O)C=1C2=C(SC1)C(CCC2)=O)C)C2=CC=C(C=C2)N2CCCC2 | C21H26N2O4S2
